### PR TITLE
[Merged by Bors] - feat(Topology/Instances/NNReal): add tendsto_of_antitone

### PR DESCRIPTION
**Pull request by mariainesdff**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/NNReal.lean [hunk 1]
```diff
@@ -266,4 +266,33 @@ def powOrderIso (n : ℕ) (hn : n ≠ 0) : ℝ≥0 ≃o ℝ≥0 :=
       simpa [OrderBot.atBot_eq, pos_iff_ne_zero]
 #align nnreal.pow_order_iso NNReal.powOrderIso
 
+section Monotone
+
+/-- An monotone, bounded above sequence `f : ℕ → ℝ` has a finite limit. -/
+theorem _root_.Real.tendsto_of_bddAbove_monotone {f : ℕ → ℝ} (h_bdd : BddAbove (Set.range f))
```
Comment (dupuisf) [inline Mathlib/Topology/Instances/NNReal.lean:272]:
```suggestion
/-- A monotone, bounded above sequence `f : ℕ → ℝ` has a finite limit. -/
theorem _root_.Real.tendsto_of_bddAbove_monotone {f : ℕ → ℝ} (h_bdd : BddAbove (Set.range f))
```

File: Mathlib/Topology/Instances/NNReal.lean [hunk 2]
```diff
@@ -266,4 +266,33 @@ def powOrderIso (n : ℕ) (hn : n ≠ 0) : ℝ≥0 ≃o ℝ≥0 :=
...
+
+/-- An antitone, bounded below sequence `f : ℕ → ℝ` has a finite limit. -/
+theorem _root_.Real.tendsto_of_bddBelow_antitone {f : ℕ → ℝ} (h_bdd : BddBelow (Set.range f))
+    (h_ant : Antitone f) : ∃ r : ℝ, Tendsto f atTop (𝓝 r) := by
+  obtain ⟨B, hB⟩ := Real.exists_isGLB (Set.range_nonempty f) h_bdd
+  exact ⟨B, tendsto_atTop_isGLB h_ant hB⟩
+
+/-- An antitone sequence `f : ℕ → ℝ≥0` has a finite limit. -/
+theorem tendsto_of_antitone {f : ℕ → NNReal} (h_ant : Antitone f) :
+    ∃ r : NNReal, Tendsto f atTop (𝓝 r) := by
```
Comment (dupuisf) [inline Mathlib/Topology/Instances/NNReal.lean:285]:
```suggestion

/-- An antitone sequence `f : ℕ → ℝ≥0` has a finite limit. -/
theorem tendsto_of_antitone {f : ℕ → ℝ≥0} (h_ant : Antitone f) :
    ∃ r : ℝ≥0, Tendsto f atTop (𝓝 r) := by
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+
